US08034811B2
2-[(4-Methoxy-naphthalen-1-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from anthranilic acid and 4-methoxy-1-naphthaldehyde (Aldrich). 13C-NMR (DMSO-d6) δ 169.9, 154.4, 150.7, 134.4, 131.8, 131.6, 126.7, 125.8, 125.7, 125.2, 125.1, 123.3, 122.0, 114.4, 111.6, 110.1, 103.7, 55.4, 43.9.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 4-methoxy-1-naphthaldehyde | COC1=CC=C(C2=CC=CC=C12)C=O | C12H10O2
product | 2-[(4-Methoxy-naphthalen-1-ylmethyl)-amino]-benzoic acid | COC1=CC=C(C2=CC=CC=C12)CNC1=C(C(=O)O)C=CC=C1 | C19H17NO3
